US06908539B2
A 4(2-hydroxyethyl)morpholine-2,3-dione was prepared at low temperatures by the following procedure. Into a five-necked 22 liter round bottomed flask equipped with a reflux condenser, nitrogen bubbler, addition funnel, thermocouple well, and mechanical stirrer was charged 3000 g (20.53 mol) of diethyl oxalate and 2000 ml of isopropyl alcohol. The solution was cooled to 0 to 5° C. using a cold bath of ice and methanol. A solution of 2160 g (20.53 mol) of diethanolamine dissolved in 2000 ml of isopropyl alcohol was added through the addition funnel during a period of 5 to 6 hours. The reaction is exothermic. After addition was complete, the mixture was allowed to stand at room temperature overnight. The product is collected by filtration. After air drying, 2923 g (89.5% yield) of white crystals were obtained with identical spectral properties to the compound prepared in Example 1.

reactant | diethyl oxalate | 20.53 mol, 3000 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | methanol | CO | CH4O
reactant | diethanolamine | 20.53 mol, 2160 g | N(CCO)CCO | C4H11NO2
solvent | isopropyl alcohol | 2000 ml | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 2000 ml | C(C)(C)O | C3H8O
product | 4(2-hydroxyethyl)morpholine-2,3-dione | OCCN1C(C(OCC1)=O)=O | C6H9NO4
